US08470811B2
Step 1: tert-Butyl 4-{[tert-butyl(diphenyl)silyl]oxy}piperidine-1-carboxylate
10.0 g (49.7 mmol) of tert-butyl 4-hydroxypiperidine-1-carboxylate and 4.06 g (59.7 mmol) of imidazole were initially charged in 100 ml of anhydrous DMF, and 15.02 g (54.7 mmol) of tert-butyl(diphenyl)silyl chloride were added at 0° C. After the reaction mixture had been stirred at RT for 48 h, it was poured into 1.6 liters of water and then extracted three times with approx. 500 ml each time of diethyl ether. The combined organic extracts were washed successively with saturated sodium hydrogencarbonate solution, water and saturated sodium chloride solution. After drying over anhydrous magnesium sulphate, the mixture was filtered and the solvent was removed on a rotary evaporator. The remaining residue was roughly purified by means of suction filtration (approx. 300 g of silica gel, eluent: cyclohexane→2:1 cyclohexane/ethyl acetate). 22.21 g (91% of theory, approx. 90% purity) of the title compound were obtained.

reactant | tert-butyl 4-hydroxypiperidine-1-carboxylate | 49.7 mmol, 10.0 g | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | imidazole | 59.7 mmol, 4.06 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyl(diphenyl)silyl chloride | 54.7 mmol, 15.02 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | water | 1.6 liters | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | tert-Butyl 4-{[tert-butyl(diphenyl)silyl]oxy}piperidine-1-carboxylate | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CCN(CC1)C(=O)OC(C)(C)C | C26H37NO3Si
